US05977178
2-tert-Butoxycarbonylamino-3-(4-fluorophenyl)propionic acid (5.0 g; 17.7 mmol) was dissolved in dry tetrahydrofuran. Iodomethane (8.8 mL; 141 mmol) was added and the reaction mixture was cooled to 0° C. Sodium hydride (2.1 g; 53.0 mmol) was slowly added and the reaction mixture was stirred for 12 hours at room temperature. Ethyl acetate (50 mL) was added and water (20 mL) was added dropwise to the reaction mixture. The ethyl acetate was removed in vacuo and the residue was diluted with diethyl ether (30 mL) and water (100 mL). The organic phase was extracted with a saturated aqueous solution of sodium hydrogen carbonate (50 mL). Citric acid (5%) was added to the combined aqueous phases until pH 3, which were then extracted with ethyl acetate (2×50 mL) and the phases were separated. The organic phase was washed with water (2×50 mL), an aqueous solution of sodium thiosulfate (5%; 2×50 mL) and water (50 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was dissolved in diethyl ether (10 mL). Dicyclohexylamine (10 mL) was added. Methylene chloride (30 mL) was added and the mixture was heated until the precipitate was dissolved. Diethyl ether (20 mL) and heptane (20 mL) were added and the reaction mixture was left 12 hours without stirring. The reaction mixture was filtered to afford 5.7 g of (R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid as a dicyclohexylammonium salt.

reactant | 2-tert-Butoxycarbonylamino-3-(4-fluorophenyl)propionic acid | 17.7 mmol, 5.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=C(C=C1)F | C14H18FNO4
reactant | Iodomethane | 141 mmol, 8.8 mL | IC | CH3I
reactant | Sodium hydride | 53.0 mmol, 2.1 g | [H-].[Na+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid | 5.7 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=C(C=C1)F | C15H20FNO4
